US08703805B2
To a solution of 2-(5-(3′-aminobiphenyl-4-yl)-1-(2-chlorophenyl)-1H-pyrazol-3-yl)propan-2-ol (370 mg, 037 mmol) in acetonitrile (1.6 mL) was added triethylamine (0.12 mL, 0.86 mmol) followed by acetyl chloride (27 μL, 380 μmol). The reaction vial was then shaken at 75° C. overnight. After cooling the reaction solution was concentrated under reduced pressure and the crude product was purified by flash column chromatography eluting with a gradient from 0% to 100% EtOAc/hexane to afford N-(4′-(1-(2-chlorophenyl)-3-(2-hydroxypropan-2-yl)-1H-pyrazol-5-yl)biphenyl-3-yl)acetamide (82 mg, 49% yield) as an oil. 1H NMR (400 MHz CDCl3): δ 7.79 (1H, s), 7.49-7.42 (4H, m), 7.41-732 (4H, m), 7.31-7.21 (3H, m), 6.54 (1H, s), 2.68 (1H, s), 2.19 (3H, s), 1.69 (6H, s). MS(ES): 445[M+H]+. The following compounds are prepared essentially according to the previous examples:

reactant | 2-(5-(3′-aminobiphenyl-4-yl)-1-(2-chlorophenyl)-1H-pyrazol-3-yl)propan-2-ol | 370 mg | NC=1C=C(C=CC1)C1=CC=C(C=C1)C1=CC(=NN1C1=C(C=CC=C1)Cl)C(C)(C)O | C24H22ClN3O
reactant | triethylamine | 0.86 mmol, 0.12 mL | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 380 μmol, 27 μL | C(C)(=O)Cl | C2H3ClO
solvent | acetonitrile | 1.6 mL | C(C)#N | C2H3N
product | N-(4′-(1-(2-chlorophenyl)-3-(2-hydroxypropan-2-yl)-1H-pyrazol-5-yl)biphenyl-3-yl)acetamide | 82 mg, 49% yield | ClC1=C(C=CC=C1)N1N=C(C=C1C1=CC=C(C=C1)C1=CC(=CC=C1)NC(C)=O)C(C)(C)O | C26H24ClN3O2
